* PV SOURCE
*-----------------------------------------------------------------
* connections:   +ve terminal
*                | -ve terminal
*                | | 
.SUBCKT PVSOURCE 1 2 Isc=1 Vscale=50
*Setting Isc value
VIsc nsc 0 {Isc}
*Setting No. of devices in series 
Vnum ndev 0 {Vscale}
*Using PV model eqn. in B-source
*(nVT)=0.05 -- n=2 and VT=0.025
*a conditional statement is used. If current flow is negative i.e. PV as sink, then the 
*current should get limited to 0 and not allow sink current into PV
Bpv 1 2 i=-(v(nsc)- 1e-7*(exp(v(1,2)/0.05/v(ndev))-1)>0 ? (v(nsc)- 1e-7*(exp(v(1,2)/0.05/v(ndev))-1)) : 0)
.ENDS
*--------------------------------------------------------------------------------